US07285563B2
N-(1,3-benzodioxol-5-yl)-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and 3,4-(methylenedioxy)phenyl isocyanate. m/z (ES+) 308 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 3,4-(methylenedioxy)phenyl isocyanate | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
product | N-(1,3-benzodioxol-5-yl)-N′-[quinolin-6-yl]urea | O1COC2=C1C=CC(=C2)NC(=O)NC=2C=C1C=CC=NC1=CC2 | C17H13N3O3
